US06723735B1
A suspension of 3-nitrobenzaldehyde (30 g, 0.2 mol) in methanol (150 ml) was treated with morpholine and the resulting orange solution cooled to 0° C. The solution of zinc cyanoborohydride prepared above was then introduced by means of a double-ended needle and the reaction stirred to ambient temperature over 16 hours. The reaction was filtered and the filtrate evaporated to dryness. The residue was dissolved in diethyl ether (600 ml) and washed with 1N hydrochloric acid (1 l). The organic layer (containing 3-nitrobenzyl alcohol) was discarded. The aqueous layer was made basic with 4N sodium hydroxide and extracted with diethyl ether (750 ml). The organic layer was dried over anhydrous sodium sulphate, filtered and pre-adsorbed on to silica. Purification by dry flash chromatography eluting with dichloromethane/methanol/0.880 NH3 (95:4.5:0.5) gave 4-(3-nitrobenzyl)morpholine as a pale yellow oil which crystallised on standing (22.2 g, 50%). δH (360 MHz, CDCl3) 2.45-2.48 (4H, m), 3.59 (2H, s), 3.71-3.74 (4H, m), 7.49 (1H, t, J 8), 7.68 (1H, d, J 8), 8.12 (1H, d, J 8), 8.22 (1H, s).

reactant | 3-nitrobenzaldehyde | 0.2 mol, 30 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | methanol | 150 ml | CO | CH4O
catalyst | zinc cyanoborohydride | C(#N)[BH3-].[Zn+2].C(#N)[BH3-]
product | 4-(3-nitrobenzyl)morpholine | [N+](=O)([O-])C=1C=C(CN2CCOCC2)C=CC1 | C11H14N2O3
